US07956070B2
Step 4: Methyl 5-[methyl(methylsulfonyl)amino]-1H-1,2,3-triazole-4-carboxylate
Methyl 1-(4-methoxybenzyl)-5-[methyl(methylsulfonyl)amino]-1H-1,2,3-triazole-4-carboxylate (0.54 g) was stirred in trifluoroacetic acid (5 mL) at 60° C. for 6 h. The mixture was evaporated and the residue was co-evaporated with toluene. Purification by flash chromatoraphy (1:49 methanol/DCM) gave the subtitle compound as a gum (0.36 g).

reactant | Methyl 1-(4-methoxybenzyl)-5-[methyl(methylsulfonyl)amino]-1H-1,2,3-triazole-4-carboxylate | 0.54 g | COC1=CC=C(CN2N=NC(=C2N(S(=O)(=O)C)C)C(=O)OC)C=C1 | C14H18N4O5S
solvent | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
product | Methyl 5-[methyl(methylsulfonyl)amino]-1H-1,2,3-triazole-4-carboxylate | 0.36 g | CN(C1=C(N=NN1)C(=O)OC)S(=O)(=O)C | C6H10N4O4S
